US05808062
4-Hydroxy-6-(3-hydroxyphenyl)-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 3'-hydroxyacetophenone (2.06 g, 15.1 mmol), trimethylsilyl triflate (7.0 mL, 36.2 mmol), triethylamine (8.52 mL, 61.1 mmol), methylene chloride (30 mL), and diethyl ester of [(2-isopropylphenyl)thio] propanedioic acid (3.11 g, 10.0 mmol) m.p. 201°-204° C.; 1H NMR (250 MHz, DMSO-d6) δ 1.25 (d, 6H), 3.41 (m, 1H), 6.82 (s, 1H), 6.93 (m, 2H), 7.09 (m, 2H), 7.30 (m, 4H), 9.91 (br, 1H).

reactant | 3'-hydroxyacetophenone | 15.1 mmol, 2.06 g | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | trimethylsilyl triflate | 36.2 mmol, 7.0 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 61.1 mmol, 8.52 mL | C(C)N(CC)CC | C6H15N
reactant | [(2-isopropylphenyl)thio] propanedioic acid | 10.0 mmol, 3.11 g | C(C)(C)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C12H14O4S
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-6-(3-hydroxyphenyl)-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC(=CC=C1)O)=O)SC1=C(C=CC=C1)C(C)C | C20H18O4S
